US08877778B2
trans-4-[2-(4-Benzofuran-4-yl-piperidin-1-yl)-ethyl]-cyclohexylamine dihydrochloride
To a mixture of trans-{4-[2-(4-benzofuran-4-yl-piperidin-1-yl)-ethyl]-cyclohexyl}-carbamic acid tert-butyl ester (0.62 g, 1.24 mmol) in dichloromethane (9 ml) was added at room temperature hydrochloric acid solution (4M in dioxane, 4.63 ml, 18.5 mmol) and the mixture was allowed to stir for 2 h, the solvent was evaporated, MeOH (20 ml) and diethyl ether (40 ml) were added and the mixture was allowed to stir for 30 min at room temperature. The precipitate was collected by filtration, washed with diethyl ether and dried to yield the title compound as a white solid (0.49 g, 99%), MS (ISP) m/z=327.4 [(M+H)+], mp 239° C.

reactant | trans-{4-[2-(4-benzofuran-4-yl-piperidin-1-yl)-ethyl]-cyclohexyl}-carbamic acid tert-butyl ester | 1.24 mmol, 0.62 g | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)CCN1C(CCCC1)C=1C=COC2=CC=CC21)=O | C26H38N2O3
reactant | hydrochloric acid | 18.5 mmol, 4M, 4.63 ml | Cl | ClH
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
product | trans-4-[2-(4-Benzofuran-4-yl-piperidin-1-yl)-ethyl]-cyclohexylamine dihydrochloride | 0.49 g, 99% | Cl.Cl.O1C=CC(=C2C1=CC=C2)C2N(CCCC2)CC[C@@H]2CC[C@H](CC2)N | InChI=1S/C21H30N2O.2ClH/c22-17-9-7-16(8-10-17)11-14-23-13-2-1-5-20(23)18-12-15-24-21-6-3-4-19(18)21;;/h3-4,6,12,15-17,20H,1-2,5,7-11,13-14,22H2;2*1H/t16-,17-,20?;;
